US07560551B2
A 25 mL RBF under nitrogen was charged with 4-(4-(4-(3-(2-aminopyrimidin-4-yl)pyridin-2-yloxy)phenylamino)phthalazin-1-yl)benzaldehyde (90 mg, 0.18 mmol), pyrrolidine (125 mg, 1.8 mmol) and MeOH (3.5 mL, 0.05 M). HOAc was added (0.02 mL, 0.36 mmol) and the reaction mixture was stirred at RT for 2 hrs. The reaction mixture was cooled to 0° C. and sodium triacetoxyborohydride (186 mg, 0.90 mmol) was added portionwise. The mixture was stirred at RT overnight, then cooled to 0° C. and basified with aqueous sodium bicarbonate and the product was extracted into DCM. The organic layers were collected, dried over sodium sulfate, filtered and concentrated to give brown residue. The crude residue was purified by Gilson reverse phase liquid chromatography (5%-85% CH3CN/H2O+0.1% TFA). Product-containing fractions were combined and basified with aqueous sodium bicarbonate. This was extracted with EtOAc, dried over sodium sulfate, filtered, concentrated under reduced pressure, and dried under high vacuum to afford N-(4-(3-(2-aminopyrimidin-4-yl)pyridin-2-yloxy)phenyl)4-(4-(pyrrolidin-1-ylmethyl)phenyl)phthalazin-1-amine as a light yellow solid. MS m/z=567 [M+H]+. Calc'd for C34H30N8O: 566.7.

reactant | 4-(4-(4-(3-(2-aminopyrimidin-4-yl)pyridin-2-yloxy)phenylamino)phthalazin-1-yl)benzaldehyde | 0.18 mmol, 90 mg | NC1=NC=CC(=N1)C=1C(=NC=CC1)OC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C1=CC=C(C=O)C=C1 | C30H21N7O2
reactant | pyrrolidine | 1.8 mmol, 125 mg | N1CCCC1 | C4H9N
reactant | sodium triacetoxyborohydride | 0.90 mmol, 186 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | HOAc | CC(=O)O | C2H4O2
solvent | MeOH | 0.05 M, 3.5 mL | CO | CH4O
product | N-(4-(3-(2-aminopyrimidin-4-yl)pyridin-2-yloxy)phenyl)4-(4-(pyrrolidin-1-ylmethyl)phenyl)phthalazin-1-amine | NC1=NC=CC(=N1)C=1C(=NC=CC1)OC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C1=CC=C(C=C1)CN1CCCC1 | C34H30N8O
